US06924293B2
Using the general method of Example 255, except that chloroform was used in place of aceotnitrile, 1-(3-aminopropyl)-2-(2-ethoxymethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine (2.6 g, 8.35 mmol) was reacted with methanesulfonic anhydride (3+ g) to provide 850 mg of N-{3-[4-amino-2-(2-ethoxymethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]propyl}methanesulfonamide as a solid, m.p. 212.0-214.0° C. Analysis: Calculated for C17H27N5O3S: % C, 53.52; % H, 7.13; % N, 18.36; Found: % C, 53.25; % H, 7.16; % N, 18.09.

reactant | 1-(3-aminopropyl)-2-(2-ethoxymethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine | 8.35 mmol, 2.6 g | NCCCN1C(=NC=2C(=NC=3CCCCC3C21)N)COCC | C16H25N5O
reactant | methanesulfonic anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-{3-[4-amino-2-(2-ethoxymethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]propyl}methanesulfonamide | 850 mg | NC1=NC=2CCCCC2C2=C1N=C(N2CCCNS(=O)(=O)C)COCC | C17H27N5O3S
